US07501411B2
Step 3: 6-[8-(4-Morpholin-4-yl-phenylamino)-[1,2,4]triazolo[1,5-a]pyrazin-5-yl]-1,1-dioxo-1,2-dihydro-1λ6-benzo[d]isothiazol-3-one
A suspension of (4-morpholin-4-yl-phenyl)-[5-(1,1,3-trioxo-2,3-dihydro-1H-1 λ6-benzo[d]isothiazol-6-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-carbamic acid tert-butyl ester (100 mg, 0.173 mmol) in 4M HCl (2.5 mL) in dioxane is stirred at room temperature for 2 hours. The solvent is removed under vacuum and the residue is triturated with DCM, diethyl ether and petroleum ether to afford the title compound (84 mg, 100%). 1H-NMR (400 MHz, d6-DMSO) δ(ppm) 3.25 (4H, m), 3.85 (4H, m), 7.20 (2H, d), 7.88 (2H, d), 8.16 (1H, d), 8.24 (1H, s), 8.58 (1H, d), 8.82 (2H, s), 8.96 (1H, s), 10.31 (1H, s). LCMS: Rt 2.31 min (95.7%), m/z (APCI) 478 (M+H)+.

reactant | (4-morpholin-4-yl-phenyl)-[5-(1,1,3-trioxo-2,3-dihydro-1H-1 λ6-benzo[d]isothiazol-6-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-carbamic acid tert-butyl ester | 0.173 mmol, 100 mg | C(C)(C)(C)OC(N(C=1C=2N(C(=CN1)C1=CC3=C(C(NS3(=O)=O)=O)C=C1)N=CN2)C2=CC=C(C=C2)N2CCOCC2)=O | C27H27N7O6S
solvent | HCl | 4M, 2.5 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-[8-(4-Morpholin-4-yl-phenylamino)-[1,2,4]triazolo[1,5-a]pyrazin-5-yl]-1,1-dioxo-1,2-dihydro-1λ6-benzo[d]isothiazol-3-one | 84 mg, 100% | N1(CCOCC1)C1=CC=C(C=C1)NC=1C=2N(C(=CN1)C1=CC3=C(C(NS3(=O)=O)=O)C=C1)N=CN2 | C22H19N7O4S
